US07645771B2
3-amino-2,5-dichlorobenzoic acid (5.00 g, 24.27 mmol) was stirred in methanol (30 ml) at room temperature. Sulfuric Acid (5 ml) was added dropwise. Reaction stirred for 3 hours and was then diluted with water (30 ml) and basified using sodium hydroxide. Mixture was extracted with ethyl acetate×3. Solvent was removed to afford methyl 3-amino-2,5-dichlorobenzoate (4.20 g, 79%) as a solid.

reactant | 3-amino-2,5-dichlorobenzoic acid | 24.27 mmol, 5.00 g | NC=1C(=C(C(=O)O)C=C(C1)Cl)Cl | C7H5Cl2NO2
reactant | Sulfuric Acid | 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | methanol | 30 ml | CO | CH4O
solvent | water | 30 ml | O | H2O
product | methyl 3-amino-2,5-dichlorobenzoate | 4.20 g, 79% | NC=1C(=C(C(=O)OC)C=C(C1)Cl)Cl | C8H7Cl2NO2
